US06620839B2
4′-methoxy-2-methyl-1,1′-biphenyl-4-carbonitrile
4-Bromo-3-methylbenzonitrile and 4-methoxyphenylboronic acid were processed as described in Example 164A to provide the title compound (80% yield). 1HNMR (300 MHz, CDCl3) δ2.40 (3H), 3.73 (s, 3H), 6.84-7.60 (m, 7H); MS (DCI) m/z 224 (M+H)+.

reactant | 4-Bromo-3-methylbenzonitrile | BrC1=C(C=C(C#N)C=C1)C | C8H6BrN
reactant | 4-methoxyphenylboronic acid | COC1=CC=C(C=C1)B(O)O | C7H9BO3
product | 4′-methoxy-2-methyl-1,1′-biphenyl-4-carbonitrile | 80% yield | COC1=CC=C(C=C1)C1=C(C=C(C=C1)C#N)C | C15H13NO
